US06759414B2
A. 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(1-hydroxyethyl)benzamide
To a stirring solution of 5-acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)benzamide (0.48 g, 0.96 mmol) in methanol (20 mL) was added sodium borohydride (36 mg, 0.96 mmol). The reaction was stirred at room temperature for 5 min, treated with water, and concentrated in vacuo. The residual mixture was partitioned between ethyl acetate and water and the layers separated. The organic phase was washed with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give 0.47 g (98%) of a white foam.

reactant | 5-acetyl-2-[(1-tert-butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)benzamide | 0.96 mmol, 0.48 g | C(C)(=O)C=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C25H29ClN4O5
reactant | sodium borohydride | 0.96 mmol, 36 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 2-[(1-tert-Butoxycarbonylpiperidin-4-ylcarbonyl)amino]-N-(5-chloropyridin-2-yl)-5-(1-hydroxyethyl)benzamide | 0.47 g, 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)NC1=C(C(=O)NC2=NC=C(C=C2)Cl)C=C(C=C1)C(C)O | C25H31ClN4O5
